US08957070B2
4-Fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
To a mixed solution of ethyl 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (0.45 g) in tetrahydrofuran (10 mL)-methanol (10 mL) was added aqueous solution (5 mL) of 85% potassium hydroxide (0.25 g), and the mixture was stirred at room temperature for 18 hr. The reaction solution was acidified with aqueous citric acid solution, extracted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (0.41 g, yield 98%) as pale-yellow crystals.

reactant | ethyl 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.45 g | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C(=O)OCC | C18H19FN2O5S2
reactant | methanol | 10 mL | CO | CH4O
reactant | potassium hydroxide | 5 mL, 0.25 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.41 g, yield 98% | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C(=O)O | C16H15FN2O5S2
